US07579449B2
4-bromo-1-chloro-2-(4-methoxy-benzyl)-benzene
A solution of 86.2 g (5-bromo-2-chloro-phenyl)-(4-methoxy-phenyl)-methanone and 101.5 ml triethylsilane in 75 ml dichloromethane and 150 ml acetonitrile is cooled to 10° C. Then with stirring 50.8 ml of boron trifluoride etherate are added so that the temperature does not exceed 20° C. The solution is stirred for 14 h at ambient temperature, before another 9 ml triethylsilane and 4.4 ml boron trifluoride etherate are added. The solution is stirred for a further 3 h at 45-50° C. and then cooled to ambient temperature. A solution of 28 g potassium hydroxide in 70 ml of water is added and the mixture is stirred for 2 h. Then the organic phase is separated off and the aqueous phase is extracted another three times with diisopropylether. The combined organic phases are washed twice with 2 M potassium hydroxide solution and once with aqueous sodium chloride solution and then dried over sodium sulphate. After the solvent has been eliminated the residue is stirred in ethanol, separated off again and dried at 60° C.

reactant | (5-bromo-2-chloro-phenyl)-(4-methoxy-phenyl)-methanone | 86.2 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OC)Cl | C14H10BrClO2
reactant | triethylsilane | 101.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 50.8 ml | B(F)(F)F.CCOCC
reactant | triethylsilane | 9 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 4.4 ml | B(F)(F)F.CCOCC
reactant | potassium hydroxide | 28 g | [OH-].[K+]
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | 70 ml | O | H2O
product | 4-bromo-1-chloro-2-(4-methoxy-benzyl)-benzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OC | C14H12BrClO
